US06423699B1
6(3-Nitro-phenyl)-4-methyl-3,4dihydro-1H-quinoxalin-2-one
Prepared according to the procedure for Example 5 from 6-bromo-4-methyl-3,4-dihydro-1H-quinoxalin-2-one (4.8 g, 20 mmol), and 3-nitrophenylboronic acid (4.8 g, 30 mmol). A red powder (0.95 g, 16%): mp 237-243° C. 1H-NMR (DMSO-d6) δ 2.88 (s, 3H), 6.9 (d, J=7.9 Hz, 1H), 7.01 (d, J=2 Hz, 1H), 7.11 (dd, J=7.9, 2.0 Hz, 1H), 7.7 (t, J=7.9 Hz, 1H), 8.1 (m, 2H), 8.37 (t, J=0.7 Hz), MS (ESI) m/z 283 (M)+.

reactant | 6-bromo-4-methyl-3,4-dihydro-1H-quinoxalin-2-one | 20 mmol, 4.8 g | BrC=1C=C2N(CC(NC2=CC1)=O)C | C9H9BrN2O
reactant | 3-nitrophenylboronic acid | 30 mmol, 4.8 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 6(3-Nitro-phenyl)-4-methyl-3,4dihydro-1H-quinoxalin-2-one | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=C2N(CC(NC2=CC1)=O)C | C15H13N3O3
